US08614327B2
To a stirred solution of 2-tert-butyl-5-nitro-aniline (5.0 g, 25.74 mmol) in H2O (20 mL) was added conc. HCl (10 mL). Once dissolved, the mixture was cooled to 0° C. followed by the slow addition of NaNO2 (1.8 g, 819 μL, 25.74 mmol) in H2O (10 mL). The reaction mixture was stirred at 0° C. for another 0.5 h. Then HPF6 solution was added (2×20 mL) batch wise. The precipitate formed was obtained by filtration, which was then heated under infrared light at approximately 130-150° C. The grey solid slowly turned to a dark viscous oil, which was purified by silica gel column chromatography to afford 1-tert-butyl-2-fluoro-4-nitrobenzene (0.6 g, 12%). 1H NMR (400 MHz, CDCl3) δ 7.96 (dd, J=2.4, 8.8 Hz, 1H), 7.87 (dd, J=2.4, 12.0 Hz, 1H), 7.48 (t, J=8.0 Hz, 1H), 1.43 (s, 9H).

reactant | 2-tert-butyl-5-nitro-aniline | 25.74 mmol, 5.0 g | C(C)(C)(C)C1=C(N)C=C(C=C1)[N+](=O)[O-] | C10H14N2O2
reactant | HCl | 10 mL | Cl | ClH
reactant | NaNO2 | 25.74 mmol, 819 μL, 1.8 g | N(=O)[O-].[Na+]
reactant | HPF6 | [H+].F[P-](F)(F)(F)(F)F
solvent | H2O | 20 mL | O | H2O
solvent | H2O | 10 mL | O | H2O
product | 1-tert-butyl-2-fluoro-4-nitrobenzene | 0.6 g, 12% | C(C)(C)(C)C1=C(C=C(C=C1)[N+](=O)[O-])F | C10H12FNO2
